US06191127B1
2.8-Dimethyl-1,4-benzoxazin-3-one
2-Methyl-6-chloro-1,4-benzoxazin-3-one from 2-amino-4-chlorophenol

reactant | 2-Methyl-6-chloro-1,4-benzoxazin-3-one | CC1OC2=C(NC1=O)C=C(C=C2)Cl | C9H8ClNO2
reactant | 2-amino-4-chlorophenol | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
product | 2.8-Dimethyl-1,4-benzoxazin-3-one | CC1OC2=C(NC1=O)C=CC=C2C | C10H11NO2
